US06864277B2
A) N-(2,3-Dihydro-1H-inden-5-yl)-2-(hydroxyimino)acetamide
This compound is prepared according to the process described in Organic Syntheses, 1925, V, 71-74. A solution of 16.5 ml of concentrated HCl in 120 ml of water and a solution of 41.5 g of hydroxylamine hydrochloride in 70 ml of water are added to a mixture of 25 g of 5-aminoindane, 35 g of chloral hydrate and 22 g of Na2SO4 in 600 ml of water, and the mixture is then refluxed for 30 minutes. After cooling the reaction mixture to RT, it is extracted with EtOAc, the organic phase is dried over Na2SO4 and the solvent is evaporated off under vacuum. The residue is taken up in a pentane/iso ether mixture and the precipitate formed is spin-filtered off. 23 g of the expected product are obtained.

reactant | HCl | 16.5 ml | Cl | ClH
reactant | hydroxylamine hydrochloride | 41.5 g | Cl.NO
reactant | 5-aminoindane | 25 g | NC=1C=C2CCCC2=CC1 | C9H11N
reactant | chloral hydrate | 35 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | Na2SO4 | 22 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | water | 120 ml | O | H2O
solvent | water | 70 ml | O | H2O
solvent | water | 600 ml | O | H2O
product | N-(2,3-Dihydro-1H-inden-5-yl)-2-(hydroxyimino)acetamide | 23 g | C1CCC2=CC(=CC=C12)NC(C=NO)=O | C11H12N2O2
